US09034866B2
Synthesis of (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-5H-spiro[benzo[b]pyrazolo[1,5-d][1,4]oxazepine-4,1′-cyclopropane]-2-carboxamide
A solution of ethyl 9-iodo-5H-spiro[benzo[b]pyrazolo[1,5-d][1,4]oxazepine-4,1′-cyclopropane]-2-carboxylate (28 mg, 0.068 mmol) in 2 mL of DMF was treated sequentially with formamidine (0.2 mL) and 25 wt % sodium methoxide in methanol (0.1 mL). The mixture was stirred at room temperature overnight (complete conversion of starting material by LCMS). The mixture was diluted with ammonium chloride solution and extracted with ethyl acetate. The combined organics were dried over sodium sulfate and concentrated by rotoevaporation. Similar to as described elsewhere in the application the crude amide was dissolved in dissolved in DMF/TEA (0.75 mL/0.25 mL) and the mixture sparged with nitrogen. Solid bis(triphenylphosphine)palladium(II)dichloride (4.8 mg, 0.00068 mmol), cuprous iodide (1.3 mg, 0.0068 mmol) and (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one (24 mg. 0.17 mmol) was added and the MW vial was sealed. The mixture was heated at 80° C. (sand bath). Complete conversion at 30 min. Purification by reverse phase HPLC gave 7.2 mg of the titled compound as a colorless solid (27% yield).

reactant | ethyl 9-iodo-5H-spiro[benzo[b]pyrazolo[1,5-d][1,4]oxazepine-4,1′-cyclopropane]-2-carboxylate | 0.068 mmol, 28 mg | IC1=CC2=C(OCC3(CC3)C=3N2N=C(C3)C(=O)OCC)C=C1 | C16H15IN2O3
reactant | formamidine | 0.2 mL | C(=N)N | CH4N2
reactant | sodium methoxide | C[O-].[Na+]
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | 0.17 mmol, 24 mg | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | methanol | 0.1 mL | CO | CH4O
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.00068 mmol, 4.8 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-5H-spiro[benzo[b]pyrazolo[1,5-d][1,4]oxazepine-4,1′-cyclopropane]-2-carboxamide | 7.2 mg, 27% yield | O[C@@]1(C(N(CC1)C)=O)C#CC1=CC2=C(OCC3(CC3)C=3N2N=C(C3)C(=O)N)C=C1 | C21H20N4O4
